US06951884B2
a) 3-Fluoro-4-(4-fluoro-benzyloxy)-benzoic acid 4-fluoro-benzyl ester
A mixture of 3-fluoro-4-hydroxybenzoic acid (4.68 g, 30 mmol), 4-fluorobenzyl bromide (17.0 g, 90 mmol) and potassium carbonate (8.3 g, 60 mmol) in THF:water (1:1, 100 mL) was heated at 65° C. for 48 h. After cooling to room temperature the mixture was extracted with ethyl acetate (2×100 mL) and the combined extracts washed with brine (100 mL) and dried over sodium sulfate. Filtration and evaporation gave a residue which was crystallised from ether:heptane to afford the title compound (8.4 g, 75%) as a white solid. MS: m/e=372.0 (M+).

reactant | 3-fluoro-4-hydroxybenzoic acid | 30 mmol, 4.68 g | FC=1C=C(C(=O)O)C=CC1O | C7H5FO3
reactant | 4-fluorobenzyl bromide | 90 mmol, 17.0 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | potassium carbonate | 60 mmol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF water | 100 mL | C1CCOC1.O
product | 3-Fluoro-4-(4-fluoro-benzyloxy)-benzoic acid 4-fluoro-benzyl ester | 8.4 g, 75% | FC1=CC=C(COC(C2=CC(=C(C=C2)OCC2=CC=C(C=C2)F)F)=O)C=C1 | C21H15F3O3
